US06455507B1
(±)-(1R*,2S*,3R*)-3-[5,6-Dichloro-2-(cyclopropylamino)-1H-benzimidazol-1-yl]-1,2-cyclohexanediol
(±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl diacetate (464 mg, 1.00 mmol) and cyclopropylamine were reacted as in example 46. The solution was cooled and 1 N sodium hydroxide (one equivalent) was added. Volatiles were evaporated in vacuo and the residual solid was crystallized from methanol to provide title compound as off-white powder (271 mg, 76%), m.p. >25° C.; 1H-NMR (DMSO-d6, 200 MHz) δ: 7.62, 7.44 (both s, each 1, 2 aromatic CH), 7.00-6.95 (m, 1, NH), 4.66 (d, J=6.2 Hz, 1, OH), 4.56 (d, J=2.7 Hz, 1, OH), 4.3-3.9 (m, 3, 2 OCH and NCH), 2.8-2.65 (m, 1, NCH), 2.1-1.4 (m, 6, 3 CH2), 0.75-0.45 (m, 4, 2 CH2 of cyclopropyl).

reactant | (±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl diacetate | 1.00 mmol, 464 mg | C(C)(=O)O[C@H]1[C@H]([C@@H](CCC1)N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br)OC(C)=O | C17H17BrCl2N2O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | sodium hydroxide | 1 N, one equivalent | [OH-].[Na+]
product | (±)-(1R*,2S*,3R*)-3-[5,6-Dichloro-2-(cyclopropylamino)-1H-benzimidazol-1-yl]-1,2-cyclohexanediol | 271 mg, 76% | ClC1=CC2=C(N(C(=N2)NC2CC2)[C@H]2[C@@H]([C@@H](CCC2)O)O)C=C1Cl | C16H19Cl2N3O2
